US05389653
A solution of 16.0 g of 3,4-dimethoxy-5-nitrobenzoyl chloride in 80 ml of pyridine is added dropwise to a solution of 2.68 g of 1-methylimidazole and 6.6 g of triethylamine in 80 ml of pyridine, whereupon the mixture is stirred at 60° for 3 hours. After treatment with 1.70 ml of 3N sodium hydroxide solution the mixture is stirred for an additional 1 hour and subsequently poured into ice-water. The separated grey crystals are filtered under suction and taken up in ethyl acetate, whereupon the organic phase is dried over magnesium sulfate and the solvent is distilled. After recrystallization from ethyl acetate/hexane there is obtained 3,4-dimethoxy-5-nitrophenyl (1-methylimidazol-2-yl) ketone in the form of colorless crystals of m.p. 144°-145°.

reactant | 3,4-dimethoxy-5-nitrobenzoyl chloride | 16.0 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
reactant | 1-methylimidazole | 2.68 g | CN1C=NC=C1 | C4H6N2
reactant | triethylamine | 6.6 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 3N, 1.70 ml | [OH-].[Na+]
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dimethoxy-5-nitrophenyl (1-methylimidazol-2-yl) ketone | CN1C(=NC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C13H13N3O5
